US05059345
600 mg (2.5 millimols) of the thus obtained 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenol was reacted with 830 mg (2.4 millimols) of 4-(4'-octyloxyphenyl)benzoic acid chloride, similar to the procedure as described in Preparation Example 2, to obtain 960 mg of a crude product. The crude product was refined through silica gel column chromatography while using a mixed solvent of chloroform/hexane (50/50) as the eluent. The refined product was recrystallized from a mixed solvent of chloroform/ethanol (20/80) to obtain 153 mg of 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenyl 4-(4'-octylphenyl)benzoate.

reactant | 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenol | OC=1C=C(C=CC1C(C(C)C1=CC=CC=C1)=O)O | C15H14O3
reactant | 4-(4'-octyloxyphenyl)benzoic acid chloride | 2.4 millimols, 830 mg | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C21H25ClO2
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
product | 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenyl 4-(4'-octylphenyl)benzoate | 153 mg | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C(=O)OC2=CC(=C(C=C2)C(C(C)C2=CC=CC=C2)=O)O)C=C1 | C36H38O4
